US04680402
[2-(4-methyl-1-piperidinyl)-5-nitrophenyl]-(4-methylphenyl)-methanone
Proceeding as in example 2, with 0.045 mole (13 g) of 2-chloro-4'-methyl-5-nitro-benzophenone, 0.1 mole (11.3 cm3) of 4-methyl piperidine and 0.045 mole (6.2 g) of calcium carbonate mixed in ethanol, 14 g (Yield: 95%) of the expected product are obtained. M.P. 86° C.

reactant | 2-chloro-4'-methyl-5-nitro-benzophenone | 0.045 mole, 13 g | ClC1=C(C(=O)C2=CC=C(C=C2)C)C=C(C=C1)[N+](=O)[O-] | C14H10ClNO3
reactant | 4-methyl piperidine | 0.1 mole, 11.3 cm3 | CC1CCNCC1 | C6H13N
reactant | calcium carbonate | 0.045 mole, 6.2 g | C([O-])([O-])=O.[Ca+2]
solvent | ethanol | C(C)O | C2H6O
product | [2-(4-methyl-1-piperidinyl)-5-nitrophenyl]-(4-methylphenyl)-methanone | 14 g, Yield: 95% | CC1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])C(=O)C1=CC=C(C=C1)C | C20H22N2O3
